US06455529B1
0.9 g of 3-[4-(5-phenyl-1,2,4-oxadiazolin-3-yl)phenyl]-5-[4-(2-ethoxycarbonyl-2-N-butylsulfonyl-aminoethyl)phenoxymethyl]-2-oxazolidinone [obtainable as in Example 1 by reacting 4-(5-phenyl-1,2,4-oxadiazolin-3-yl)aniline with 2,3-epoxy-1-propanol to give N-[4-(5-phenyl-1,2,4-oxadiazolin-3-yl)phenyl]-2,3-dihydroxypropylamine, reacting with diethyl carbonate in the presence of tert-butoxide to give 3-[4-(5-phenyl-1,2,4-oxadiazolin-3-yl)phenyl]-5-hydroxymethyl-2-oxazolidinone, esterifying with methanesulfonyl chloride and reacting with Na p-(2-ethoxycarbonyl-2-N-butylsulfonylaminoethyl)phenolate] is dissolved in 50 ml of methanol and hydrogenated on Raney nickel. The reaction mixture is subsequently filtered and the filtrate is concentrated in vacuo. The resulting product is treated with 20 ml of hot ethyl acetate and, after cooling, filtered off with suction. 3-[4-(N-benzoylamidino)phenyl]-5-[4-(2-ethoxycarbonyl-2-N-butylsulfonylaminoethyl)phenoxymethyl]-2-oxazolidinone is obtained.

reactant | 4-(5-phenyl-1,2,4-oxadiazolin-3-yl)aniline | C1(=CC=CC=C1)C1NC(=NO1)C1=CC=C(N)C=C1 | C14H13N3O
reactant | 2,3-epoxy-1-propanol | O1C(CO)C1 | C3H6O2
product | N-[4-(5-phenyl-1,2,4-oxadiazolin-3-yl)phenyl]-2,3-dihydroxypropylamine | C1(=CC=CC=C1)C1NC(=NO1)C1=CC=C(C=C1)NCC(CO)O | C17H19N3O3
